US05958951
To a 1 L flask, 50 g of tiagabine ethyl ester, 750 ml of water and 11 g of conc. hydrochloric acid were charged. The mixture was heated to reflux for 2 hours and then ethanol/water, a total of 400 ml, was distilled off over a period of 4 hours. The remaining solution was stirred under reflux overnight. It was cooled to 55-60° C. and then an additional 37.5 g of conc. hydrochloric acid was added over a period of 5 min. The solution was cooled to 50-52° C. and was stirred at this temperature for 18 hours. The resulting precipitate was collected by filtration and was washed with 20 ml of water. The product was dried under vacuum at room temperature to give 40.5 g of Tiagabine, hydrochloride.

reactant | tiagabine ethyl ester | 50 g | CCOC(=O)[C@@H]1CCCN(C1)CCC=C(C2=C(C=CS2)C)C3=C(C=CS3)C | C22H29NO2S2
reactant | hydrochloric acid | 11 g | Cl | ClH
solvent | water | 750 ml | O | H2O
product | Tiagabine | 40.5 g | CC=1C=CSC1C(=CCCN2CCC[C@H](C2)C(=O)O)C3=C(C=CS3)C | C20H25NO2S2
